US04886835
The procedure is as in Example 29 for the preparation of ethyl (4-methylbenzylthio)acetate, starting with iodoethane (10.5 g), a 2M ethanolic solution of sodium ethylate (37 cc) and ethyl 2-mercaptoacetate (8.1 g) in ethanol (100 cc). Ethyl (ethylthio)acetate (6.9 g) is thereby obtained, and is used in the crude state in the subsequent syntheses.

reactant | ethyl (4-methylbenzylthio)acetate | CC1=CC=C(CSCC(=O)OCC)C=C1 | C12H16O2S
reactant | iodoethane | 10.5 g | ICC | C2H5I
reactant | sodium ethylate | 37 cc | CC[O-].[Na+]
reactant | ethyl 2-mercaptoacetate | 8.1 g | SCC(=O)OCC | C4H8O2S
solvent | ethanol | 100 cc | C(C)O | C2H6O
product | Ethyl (ethylthio)acetate | 6.9 g | C(C)SCC(=O)OCC | C6H12O2S
